US08497381B2
Step 1: [6-Fluoro-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
Prepared according to the procedure described in Example 7, Step 2, using the following starting materials: (4S,5R)-4-methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one and 3-bromo-4-fluorophenylacetic acid. M+H is 488.

reactant | (4S,5R)-4-methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C24H27BF3NO4
reactant | 3-bromo-4-fluorophenylacetic acid | BrC=1C=C(C=CC1F)CC(=O)O | C8H6BrFO2
product | [6-Fluoro-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | FC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H21F4NO4
